US07994171B2
4-Fluoro-2-(4-fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyridazin-4-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.080 g, 0.177 mmol, 1.0 eq), 1-(pyridazin-4-yl)cyclopropanamine HCl (0.024 g, 0.177 mmol, 1.0 eq) in DMF at 0° C. was added TEA (0.090 g, 0.89 mmol, 5.0 eq) and BOP reagent (0.117 g, 0.264 mmol, 1.5 eq). The reaction mixture was stirred at RT overnight. The reaction mixture was diluted with water, extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by silica gel (60-120) column chromatography using 4% MeOH/CHCl3 as eluent. Yield: 0.060 g (60.0%). 1H NMR (400 MHz, CD3OD): δ 9.08 (m, 1H), 9.05 (d, J=1.0, 5.8 Hz, 1H), 7.97-7.93 (m, 2H), 7.72 (s., 1H), 7.54 (m, 1H), 7.51 (d, J=8.4 Hz, 1H), 7.31-7.25 (m, 3H), 7.19 (s, 1H), 4.10 (s, 3H), 2.95 (s, 3H), 2.30 (s, 3H), 1.63 (s, 4H). 19F NMR (376.57 MHz, CD3OD): δ−112.33, −122.75. LCMS: (ES+) m/z=569.2 (M+H)+

reactant | 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.177 mmol, 0.080 g, 1.0 eq | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H19F2NO5
reactant | 1-(pyridazin-4-yl)cyclopropanamine HCl | 0.177 mmol, 0.024 g, 1.0 eq | Cl.N1=NC=C(C=C1)C1(CC1)N
reactant | BOP reagent | 0.264 mmol, 0.117 g, 1.5 eq | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Fluoro-2-(4-fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyridazin-4-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C2=C(C=C(C(=C2)C(NC2(CC2)C2=CN=NC=C2)=O)OC)C | C32H26F2N4O4
